US06593330B2
Step 1: 1-(6-Chloro-2-pyrazinyl)-trans-2,5-dimethylpiperazine
A mixture of 2,6-dichloropyrazine (0.40 g, 2.68 mmol), trans-2,5-dimethylpiperazine (0.62 g, 5.43 mmol), K2CO3 (0.41 g, 3.0 mmol) in acetonitrile (5 mL) was stirred at 90° C. for 6 h in a sealed pyrex tube. After cooling, the reaction mixture was filtered and concentrated in vacuo. The oily residue was purified by column chromatography on silica gel using CHCl3/MeOH (9:1) as eluent. This furnished 0.15 g (25%) of the title compound as an oil. HRMS m/z calcd for C10H15ClN4 (M)+ 226.0985, found 226.0983.

reactant | 2,6-dichloropyrazine | 2.68 mmol, 0.40 g | ClC1=NC(=CN=C1)Cl | C4H2Cl2N2
reactant | trans-2,5-dimethylpiperazine | 5.43 mmol, 0.62 g | C[C@@H]1NC[C@H](NC1)C | C6H14N2
reactant | K2CO3 | 3.0 mmol, 0.41 g | C(=O)([O-])[O-].[K+].[K+]
solvent | acetonitrile | 5 mL | C(C)#N | C2H3N
product | 1-(6-Chloro-2-pyrazinyl)-trans-2,5-dimethylpiperazine | ClC1=CN=CC(=N1)N1[C@H](CN[C@@H](C1)C)C | C10H15ClN4
